US06831106B1
(h) Ethyl 3′-hydroxybiphenyl-4-carboxylate
2 g of 3-methoxymethoxyphenylboronic acid (13.3 mmol) and 1.86 mL (11 mmol) of ethyl 4-iodobenzoate are dissolved in 20 mL of DME. 13.3 mL of 2M potassium carbonate solution (26.6 mmol) are then added and the reaction medium is degassed with a stream of argon for 10 minutes. 640 mg of Pd(PPh3)4 are then added and the mixture is heated at 90° C. for 14 hours. After treatment with saturated ammonium chloride solution, extraction with ethyl acetate and then drying and evaporation of the solvents from the organic phase, the residue is dissolved in 25 mL of anhydrous methanol and 0.5 mL of sulphuric acid is then added; The reaction medium is refluxed for 15 h and then cooled and finally treated by addition of water. After extraction with ethyl acetate, the organic phase is separated out by settling, dried and then concentrated under reduced pressure. After purification by chromatography on a column of silica, a colourless oil is obtained (m=2 g; Y=75%). (

reactant | 3-methoxymethoxyphenylboronic acid | 13.3 mmol, 2 g | COCOC=1C=C(C=CC1)B(O)O | C8H11BO4
reactant | ethyl 4-iodobenzoate | 11 mmol, 1.86 mL | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | potassium carbonate | 26.6 mmol, 2M, 13.3 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 20 mL | COCCOC | C4H10O2
product | Ethyl 3′-hydroxybiphenyl-4-carboxylate | OC=1C=C(C=CC1)C1=CC=C(C=C1)C(=O)OCC | C15H14O3
